US08470859B2
5-chloro-1-(4-cyano-2-fluorobenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride
A solution of 2-amino-5-chloronicotinamide (150 mg) and 4-(bromomethyl)-3-fluorobenzonitrile (282 mg) in DMF (3 ml) was stirred at 100° C. for 24 hr. After cooling to room temperature, ethyl acetate was added, and the precipitated crystals were filtered. The obtained crystals were dissolved in methanol (3 ml) and partitioned between ethyl acetate and aqueous sodium hydrogen carbonate solution. The organic layer was dried over magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/methanol=1/0-9/1). 4N Hydrochloric acid-ethyl acetate solution was added to the obtained yellow oil, and the precipitated crystals were filtered and recrystallized to give the title compound (47 mg).

reactant | 2-amino-5-chloronicotinamide | 150 mg | NC1=C(C(=O)N)C=C(C=N1)Cl | C6H6ClN3O
reactant | 4-(bromomethyl)-3-fluorobenzonitrile | 282 mg | BrCC1=C(C=C(C#N)C=C1)F | C8H5BrFN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 5-chloro-1-(4-cyano-2-fluorobenzyl)-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride | 47 mg | Cl.ClC=1C=C(C(N(C1)CC1=C(C=C(C=C1)C#N)F)=N)C(=O)N | InChI=1S/C14H10ClFN4O.ClH/c15-10-4-11(14(19)21)13(18)20(7-10)6-9-2-1-8(5-17)3-12(9)16;/h1-4,7,18H,6H2,(H2,19,21);1H
